US08703951B2
A mixture of methyl 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylate (6.9 g, 30 mmol), benzoylchloride (4.2 g, 30 mmol) and triethylamine (4.8 mL) in anhydrous THF (150 mL) was refluxed for 9 h. It was concentrated and diluted with water. The solid precipitated was collected by filtration, the solid cake was washed successfully with water and hexane and dried to give methyl 2-(4-chlorobenzoyl)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylate, 9.0 g (82%); mp 243-244° C. (lit.19 mp 245-246° C.). 1H NMR (DMSO-d6) δ 3.10 (1H, m, CH2), 3.35 (1H, m, CH2), 3.55 and 3.65 (3H, s, COOMe), 4.41 and 5.18 (1H, d, J=17.4 Hz, NCH2), 4.51 and 4.64 (1H, d, J=16.4 Hz, NCH2), 4.88 and 5.82 (1H, d, J=5.4 Hz, CH), 6.96-6.99 (1H, m, ArH), 7.03-7.08 (1H, m, ArH), 7.25-7.32 (1H, m, ArH), 7.42-7.60 (5H, m, 5×ArH), 10.65 and 10.95 (1H, s, exchangeable NH).

reactant | methyl 1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylate | 30 mmol, 6.9 g | C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC | C13H14N2O2
reactant | benzoylchloride | 30 mmol, 4.2 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 150 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-chlorobenzoyl)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylate | ClC1=CC=C(C(=O)N2CC=3NC4=CC=CC=C4C3CC2C(=O)OC)C=C1 | C20H17ClN2O3
